US08258130B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (529 mg, 2.28 mmol) and 5-fluoro-pyrrolo[2,3-b]pyridin-1-ylamine (288 mg, 1.9 mmol) in DMF (6 mL) is stirred at 40° C. for 1 h. The mixture is treated with DMTMM (524 mg, 1.9 mmol) and stirred at 40° C. for 1 h. The mixture is diluted with saturated aqueous Na2CO3 (5 mL) and stirred for 5 min. The precipitate is collected by filtration and dried in vacuo to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-fluoro-pyrrolo[2,3-b]pyridin-1-yl)-amide (475 mg, 68%). MS: 366 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 9.12 (s, 1H), 8.30 (m, 2H), 8.18 (d, 1H), 7.97 (d, 1H), 7.82 (d, 1H), 7.59 (m, 1H), 7.44 (m, 1H), 6.59 (d, 1H), 2.80 (s, 3H).

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 2.28 mmol, 529 mg | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
reactant | 5-fluoro-pyrrolo[2,3-b]pyridin-1-ylamine | 1.9 mmol, 288 mg | FC=1C=C2C(=NC1)N(C=C2)N | C7H6FN3
reactant | DMTMM | 1.9 mmol, 524 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | Na2CO3 | 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-fluoro-pyrrolo[2,3-b]pyridin-1-yl)-amide | 475 mg, 68% | FC=1C=C2C(=NC1)N(C=C2)NC(=O)C=2C(=NC(=NC2)C2=CC(=CC=C2)F)C | C19H13F2N5O
